US05185351
(ii) ethyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl)-1H-imidazol-5-yl]-2-(5-methyl-2-furyl)methyl-2-propenyl carbonate
To a solution of (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(5-methyl-2-furyl)methyl-2-propenol (6.86 mmol) in methylene chloride (20 mL) and triethylamine (12.4 mmol) cooled to 0° C. under argon is added dropwise ethyl chloroformate (1.34 g, 1.18 ml, 12 mmol). The reaction is then stirred at ambient temperature overnight. Ethyl acetate is added, the precipitate filtered and the concentrated filtrate is flash chromatographed over silica gel with 3:7 hexane/ethyl acetate to provide the title compound.

reactant | (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(5-methyl-2-furyl)methyl-2-propenol | 6.86 mmol | C(CCC)C=1N(C(=CN1)/C=C(/CO)\CC=1OC(=CC1)C)CC1=C(C=CC=C1)Cl | C23H27ClN2O2
reactant | triethylamine | 12.4 mmol | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 12 mmol, 1.18 ml, 1.34 g | ClC(=O)OCC | C3H5ClO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | ethyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl)-1H-imidazol-5-yl]-2-(5-methyl-2-furyl)methyl-2-propenyl carbonate | C(OCC)(OC\C(=C\C1=CN=C(N1CC1=C(C=CC=C1)Cl)CCCC)\CC=1OC(=CC1)C)=O | C26H31ClN2O4
